US04032322
To a solution of 6.7 g of 5-amino-4-cyano-3-isopropylisothiazole in 30 ml of dimethylformamide was slowly added 10.4 ml of thionyl chloride and the mixture was heated under reflux for 3 hours. The mixture was poured into 300 ml of water and the water-dimethylformamide was removed under reduced pressure. The residue was dissolved in ethanol. The solution was treated with decolorizing charcoal, then was diluted with 300 ml of water. The small amount of solid which separated was removed by filtration and was discarded. As the solution stood undisturbed, tan solid separated which was collected and recrystallized from methylcyclohexane to give 3.0 g of N'-(4-cyano-3-isopropyl-5-isothiazolyl)-N,N-dimethylformamidine, m.p. 95°-97°. A small amount was sublimed at 120° under 0.03 mm without change in melting point. The nmr spectrum was consistent with the assigned structure.

reactant | 5-amino-4-cyano-3-isopropylisothiazole | 6.7 g | NC1=C(C(=NS1)C(C)C)C#N | C7H9N3S
reactant | thionyl chloride | 10.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | 300 ml | O | H2O
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N'-(4-cyano-3-isopropyl-5-isothiazolyl)-N,N-dimethylformamidine | 3.0 g | C(#N)C=1C(=NSC1N=CN(C)C)C(C)C | C10H14N4S
